US04337197
(B) (3S-trans)-3-[(2,6-Dimethoxybenzoyl)amino]-1-hydroxy-4-methyl-2-azetidinone
To a stirred solution of (3S-trans)-3-[(2,6-dimethoxybenzoyl)amino]-4-methyl-1-[(phenylmethyl)oxy]-2-azetidinone (0.848 g) in absolute ethanol (20 ml) under nitrogen is added 1,4-cyclohexadiene (8 ml) and freshly prepared palladium black (approximately 0.85 g). After one hour the reaction mixture is filtered and evaporated to a solid (0.605 g).

reactant | (3S-trans)-3-[(2,6-dimethoxybenzoyl)amino]-4-methyl-1-[(phenylmethyl)oxy]-2-azetidinone | 0.848 g | COC1=C(C(=O)N[C@@H]2C(N([C@H]2C)OCC2=CC=CC=C2)=O)C(=CC=C1)OC | C20H22N2O5
reactant | 1,4-cyclohexadiene | 8 ml | C1=CCC=CC1 | C6H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium black | approximately 0.85 g | [Pd] | Pd
product | (3S-trans)-3-[(2,6-Dimethoxybenzoyl)amino]-1-hydroxy-4-methyl-2-azetidinone | COC1=C(C(=O)N[C@@H]2C(N([C@H]2C)O)=O)C(=CC=C1)OC | C13H16N2O5
